US07304057B2
2-Amino-3-(2-chloro-ethylsulfanyl)-propionic acid methyl ester hydrochloride
34.2 g of 2-amino-3-(2-chloro-ethylsulfanyl)-propionic acid hydrochloride was dissolved in 300 mL of absolute methanol (treated with Mg) and dry HCl gas (prepared from 250 ml of concentrated sulfuric acid and 200 g of ammonium chloride) was put in the above solution till saturation. And then the mixture was stirred for 12 hour and methanol was removed to obtain 36.3 g white solid. Yield 100%, mp 128-129° C.

reactant | 2-amino-3-(2-chloro-ethylsulfanyl)-propionic acid hydrochloride | 34.2 g | Cl.NC(C(=O)O)CSCCCl
reactant | HCl | 250 ml, 200 g | Cl | ClH
reactant | methanol | 300 mL | CO | CH4O
product | 2-Amino-3-(2-chloro-ethylsulfanyl)-propionic acid methyl ester hydrochloride | 36.3 g, Yield 100% | Cl.COC(C(CSCCCl)N)=O | InChI=1S/C6H12ClNO2S.ClH/c1-10-6(9)5(8)4-11-3-2-7;/h5H,2-4,8H2,1H3;1H
